US07572795B2
1. Methyl 2-(4-(bis(benzyloxy)phosphoryloxy)phenyl)acetate
To a solution of methyl 2-(4-hydroxyphenyl)acetate (1.89 g, 11.4 mmol) in acetonitrile (90 mL) at −10° C. was added CCl4 (5.5 mL, 57 mmol), DIPEA (4.16 mL, 23.9 mmol) and DMAP (139 mg, 1.14 mmol). After stirring for 10 mins, the mixture was added dibenzyl phosphite (3.7 mL, 16.5 mmol) slowly to keep the temperature below −10° C. The reaction was stirred at −10° C. for 1 h. The reaction was quenched with aqueous K2HPO4 (0.5 M) in acetonitrile (60 mL) and allowed to stirred at rt. The mixture was extracted by ethyl acetate (150 mL×3). The combined organic layers was washed with water and brine, dried over Na2SO4, filtered and concentrated under vacuum. The residue was subjected to ISCO (30-50% AcOEt/hexanes) to give the title compound (4.3 g, 88.5% yield) as a colorless oil.

reactant | methyl 2-(4-hydroxyphenyl)acetate | 11.4 mmol, 1.89 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | CCl4 | 57 mmol, 5.5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | DIPEA | 23.9 mmol, 4.16 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | dibenzyl phosphite | 16.5 mmol, 3.7 mL | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
solvent | acetonitrile | 90 mL | C(C)#N | C2H3N
catalyst | DMAP | 1.14 mmol, 139 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Methyl 2-(4-(bis(benzyloxy)phosphoryloxy)phenyl)acetate | 4.3 g, 88.5% yield | C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)OC | C23H23O6P
